US05866589
Methyl 4-benzyloxy-α-azidocinnamate (intermediate)
4-Benzyloxybenzaldehyde (10.0 g) and methyl azidoacetate (21.7 g) are dissolved in 157 ml of methanol and cooled to -10° (ice-acetone bath). Then sodium methoxide (43.1 ml, 25% in methanol) is added dropwise such that the reaction temperature does not rise above -5°. After 2 hr, the cooling bath is removed and the reaction is warmed to 20°-25°. When no starting material remains by TLC, the reaction is diluted with ether and washed with saturated aqueous ammonium chloride. The organic layer is washed with water, saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by flash column chromatography (hexane to 5% ethyl acetate/hexane) gives the title compound.

reactant | 4-Benzyloxybenzaldehyde | 10.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | methyl azidoacetate | 21.7 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
reactant | sodium methoxide | 43.1 ml | C[O-].[Na+]
solvent | methanol | 157 ml | CO | CH4O
product | Methyl 4-benzyloxy-α-azidocinnamate | C(C1=CC=CC=C1)OC1=CC=C(C=C(C(=O)OC)N=[N+]=[N-])C=C1 | C17H15N3O3
